US08748624B2
3-(5-(3-chloro-2-(((4′-chloro-2-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid
A 3M aqueous solution of NaOH (1.9 mL, 5.7 mmol) was added to a THF (7.6 mL) and MeOH (3.8 mL) solution of ethyl 3-(5-(3-chloro-2-(((4′-chloro-2-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate (2.4 g, 3.8 mmol) and the resulting homogeneous mixture was stirred at room temperature. After 30 min the resulting mixture concentrated and then acidified with 1M aqueous HCl. The resulting mixture was diluted with EtOAc and the layers were separated. The aqueous phase was extracted with EtOAc and the combined organics were washed with 4M NaCl, dried (Na2SO4), and concentrated. The resulting material was dissolved in diethyl ether, 1M diethyl ether solution of HCl (5.7 mL, 5.7 mmol) was added and the resulting precipitate was filtered, washed with diethyl ether, and dried in vacuo to yield the title compound.

reactant | NaOH | 5.7 mmol, 1.9 mL | [OH-].[Na+]
reactant | THF | 7.6 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(3-chloro-2-(((4′-chloro-2-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 3.8 mmol, 2.4 g | ClC=1C(=C(C=C(C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)CNC1=CC(=C(C=C1)C1=CC=C(C=C1)Cl)C | C32H28Cl2F3N3O3
reactant | HCl | 5.7 mmol, 5.7 mL | Cl | ClH
solvent | diethyl ether | 1M | C(C)OCC | C4H10O
solvent | MeOH | 3.8 mL | CO | CH4O
product | 3-(5-(3-chloro-2-(((4′-chloro-2-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid | ClC=1C(=C(C=C(C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)O)CNC1=CC(=C(C=C1)C1=CC=C(C=C1)Cl)C | C30H24Cl2F3N3O3
